US08202865B2
Intermediate 18: 4-nitro-3-piperidin-1-ylbenzoic acid
3-Fluoro-4-nitrobenzoic acid (Combi-Blocks CA-4022, 5 g; 27.01 mmol) was dissolved in EtOH (30 mL) to which was added piperidine (8.02 mL; 81.03 mmol). The reaction mixture was stirred at RT for 24 hours, then concentrated and the residue was taken up in water (300 mL). The aqueous phase was washed with Et2O then the aqueous phase was acidified with acetic acid until pH 5. The aqueous phase was extracted with Et2O (900 mL). The combined organic phases were dried over MgSO4 and concentrated affording the title compound as an orange solid (6.18 g, 91%). 1H NMR (DMSO-d6, 300 MHz) δ 13.55 (br s, 1H), 7.89-7.86 (d, J=8.42 Hz, 1H), 7.77-7.76 (d, J=1.40 Hz, 1H), 7.60-7.57 (dd, J=8.42 Hz, 1.50 Hz, 1H), 3.23-2.98 (m, 2H), 3.21-3.05 (m, 4H), 1.63-1.58 (m, 6H). HPLC (Method A) Rt 3.88 min (Purity: 99.9%).

reactant | 3-Fluoro-4-nitrobenzoic acid | 27.01 mmol, 5 g | FC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4FNO4
reactant | piperidine | 81.03 mmol, 8.02 mL | N1CCCCC1 | C5H11N
solvent | EtOH | 30 mL | CCO | C2H6O
product | 4-nitro-3-piperidin-1-ylbenzoic acid | 6.18 g, 91% | [N+](=O)([O-])C1=C(C=C(C(=O)O)C=C1)N1CCCCC1 | C12H14N2O4
